US04556615
Methacryloyl chloride was reacted with p-hydroxy benzoic acid that had been neutralised with NaOH solution to give sodium methacryloyl-oxy-benzoate in about 50% yield. Treatment with hydrochloric acid gave methacryloyl-oxy-benzoic acid which was purified by re-crystallisation from glacial acetic acid, ethanol and acetone respectively. The acid was polymerised at 90° C. in dimethyl formamide solution in a sealed degassed ampoule using benzoyl peroxide as initiator. This gave PMBA which was separated from residual monomer by dissolving the latter in diethyl ether.

reactant | Methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | p-hydroxy benzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | NaOH | [OH-].[Na+]
product | sodium methacryloyl-oxy-benzoate | about 50% yield | C(C(=C)C)(=O)OC1=C(C(=O)[O-])C=CC=C1.[Na+] | InChI=1S/C11H10O4.Na/c1-7(2)11(14)15-9-6-4-3-5-8(9)10(12)13;/h3-6H,1H2,2H3,(H,12,13);/q;+1/p-1
